US06953857B2
(ii) 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4,5-diethoxy-benzoic acid ethyl ester
g (3.93 mmol) of 3,4-Diethoxy-5-hydroxy-benzoic acid ethyl ester was dissolved in 20 ml of anhydrous tetrahydrofuran. To this solution was added 0.83 g (4.33 mmol) of 2-(2,4-Dichlorophenyl)-ethanol, 3.93 g (equivalent to 11.8 mmol PPh3) of triphenylphosphine derivatized polystyrene and 2.05 g (11.8 mmol) of DEAD. The solution was shaken for 16 h at RT. The polymer was filtered off and washed with ethyl acetate. The solvent was removed under reduced pressure. The residue was taken-up in ethyl acetate and the solution was washed three times with water and twice with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate/n-heptane (1/5).

reactant | 3,4-Diethoxy-5-hydroxy-benzoic acid ethyl ester | 3.93 mmol | C(C)OC(C1=CC(=C(C(=C1)O)OCC)OCC)=O | C13H18O5
reactant | 2-(2,4-Dichlorophenyl)-ethanol | 4.33 mmol, 0.83 g | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
reactant | triphenylphosphine | 11.8 mmol, 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 11.8 mmol, 2.05 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4,5-diethoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)OCC)OCC)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C21H24Cl2O5
